US04454350
Into a 250 ml stainless steel reactor equipped with a magnetic stirring system, 100 ml of anhydrous HF, 20.8 g (0.25 mole) of acetyl chloride and 20 g (0.21 mole) of fluorobenzene were introduced at about 0° C. The reactor was closed, after which gaseous boron trifluoride (BF3) was introduced until a constant pressure of 10 bars was achieved. The reaction was then allowed to proceed with stirring for 23 hours at ambient temperature. After reaction, the reactor was decompressed to atmospheric pressure, and the reaction mixture poured onto 200 g of crushed ice. The heterogeneous mixture was extracted three times with 200 ml of methylene chloride. The organic phases were washed three times with 200 ml of water, once with 200 ml of 3% aqueous potassium hydroxide solution and twice with 200 ml of water. The organic phase was dried over magnesium sulfate and the solvent eliminated by distillation under reduced pressure. 26 g (yield: 98%) of p-fluoroacetophenone (90% purity) was recovered.

reactant | acetyl chloride | 0.25 mole, 20.8 g | C(C)(=O)Cl | C2H3ClO
reactant | fluorobenzene | 0.21 mole, 20 g | FC1=CC=CC=C1 | C6H5F
reactant | boron trifluoride | B(F)(F)F | BF3
product | p-fluoroacetophenone | 26 g, yield: 98% | FC1=CC=C(C=C1)C(C)=O | C8H7FO
